US08754114B2
Step 2: methyl 3-[3-(3-{[(methylamino)carbonyl]amino}phenyl)imidazo[1,2-b]pyridazin-7-yl]benzoate
Dichloro(bis{di-tert-butyl[4-(dimethylamino)phenyl]phosphoranyl})palladium (2.8 mg, 0.0040 mmol) was added to a mixture of methyl 3-(3-iodoimidazo[1,2-b]pyridazin-7-yl)benzoate (0.050 g, 0.13 mmol), N-methyl-N′-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]urea (44 mg, 0.16 mmol) and sodium carbonate (28 mg, 0.26 mmol) in 1,4-dioxane (1 mL) and water (0.1 mL) and then the reaction vessel containing the mixture was evacuated and refilled with nitrogen 3 times. The reaction was stirred at 100° C. overnight. To this mixture was added aqueous acetonitrile and then filtered, washed with aqueous AcCN, and dried to provide the product. LCMS (M+H)+: m/z=402.1

reactant | methyl 3-(3-iodoimidazo[1,2-b]pyridazin-7-yl)benzoate | 0.13 mmol, 0.050 g | IC1=CN=C2N1N=CC(=C2)C=2C=C(C(=O)OC)C=CC2 | C14H10IN3O2
reactant | N-methyl-N′-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]urea | 0.16 mmol, 44 mg | CNC(=O)NC1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C | C14H21BN2O3
reactant | sodium carbonate | 0.26 mmol, 28 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.1 mL | O | H2O
catalyst | Dichloro(bis{di-tert-butyl[4-(dimethylamino)phenyl]phosphoranyl})palladium | 0.0040 mmol, 2.8 mg | Cl[Pd](P(C(C)(C)C)(C(C)(C)C)C1=CC=C(C=C1)N(C)C)(P(C1=CC=C(C=C1)N(C)C)(C(C)(C)C)C(C)(C)C)Cl
product | methyl 3-[3-(3-{[(methylamino)carbonyl]amino}phenyl)imidazo[1,2-b]pyridazin-7-yl]benzoate | CNC(=O)NC=1C=C(C=CC1)C1=CN=C2N1N=CC(=C2)C=2C=C(C(=O)OC)C=CC2 | C22H19N5O3
